US09145414B2
Copper oxide (I) (200 mg), NMP (7 mL), and concentrated aqueous ammonia (7 mL) were added to 5-bromo-7-chloro-2-ethyl-2H-indazole obtained in the above-described Step 1 (1.43 g), and the reaction solution was stirred in a microwave reactor at 80° C. for 10 hours. The reaction solution was cooled to room temperature, and diluted with ethyl acetate. Thereafter, the reaction solution was washed successively with water four times and then with a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum, and the resultant was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 7-chloro-2-ethyl-2H-indazol-5-amine.

reactant | NMP | 7 mL | CN1CCCC1=O | C5H9NO
reactant | ammonia | 7 mL | N | H3N
reactant | 5-bromo-7-chloro-2-ethyl-2H-indazole | BrC1=CC2=CN(N=C2C(=C1)Cl)CC | C9H8BrClN2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 200 mg | [Cu](I)I
product | 7-chloro-2-ethyl-2H-indazol-5-amine | ClC1=CC(=CC2=CN(N=C12)CC)N | C9H10ClN3
